US06433004B1
3-(2-Naphthylmethyl)-hexahydro-benzofuran-2-one
Under argon, a solution of diisopropylamine (3.36 ml, 24 mmol) in 20 ml of dry THF was cooled to 0° C. and admixed with butyllithium (9.6 ml, 24 mmol, 2.5 M in hexane). The solution was stirred with ice-cooling for 15 min, cooled to −78° C. and admixed with a solution of hexahydro-benzofuran-2-one (2.8 g, 20 mmol) in 10 ml of THF. This mixture was stirred at −78° C. for 1 h, and a solution of 2-bromomethylnaphthalene (5.31 g, 24 mmol) in 20 ml of THF was then added. The mixture was stirred at −78° C. for another 2 h and then at room temperature overnight. Water was then added, the organic solvent was removed under reduced pressure and the aqueous phase was extracted with MTBE. The combined ether phases were dried over magnesium sulphate, filtered and concentrated. Purification was carried out by column chromatography. Yield: 2.5 g (44.6%). Rf (cyclohexane/ethyl acetate 3:1)=0.69, Rf (cyclohexane/ethyl acetate 1:1)=0.83 MS (CI): m/e=281 [M+H+]

reactant | diisopropylamine | 24 mmol, 3.36 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 24 mmol, 2.5 M, 9.6 ml | C(CCC)[Li]
reactant | hexahydro-benzofuran-2-one | 20 mmol, 2.8 g | O1C(CC2C1CCCC2)=O | C8H12O2
reactant | 2-bromomethylnaphthalene | 24 mmol, 5.31 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 3-(2-Naphthylmethyl)-hexahydro-benzofuran-2-one | C1=C(C=CC2=CC=CC=C12)CC1C(OC2C1CCCC2)=O | C19H20O2
